US05274143
To a rapidly-stirred slurry of 5.18 g (20.0 mmol) methyl (R)-3-hydroxytetradecanoate and 5.03 g (20.8 mmol) 2-bromooctanoyl chloride in 100 mL hexanes at 0° C. in a flame-dried flask under N2 was added 1.67 mL (20.6 mmol) pyridine all at once. After stirring for 10 minutes the cloudy white mixture was poured into a separatory funnel containing a mixture of 200 mL tap H2O/100 mL ether. This mixture was shaken and the layers separated. The aqueous layer was extracted with 2×100 mL ethr. The combined ether layers were washed with 200 mL brine, and 3×200 mL H2O. The ether was dried over MgSO4 and removed by rotary evaporation, giving 8.95 g crude product. This yellow oil was dissolved in 30 mL CH2Cl2 and suction filtered through a 1" pad of silica gel 60 in a 60 mL coarse sintered glass funnel, washing with 150 mL CH2Cl2. Rotary evaporation gave 8.10 g (87%) (R)-3-[(2-bromo-1-oxooctyl)oxy]tetradecanoic acid methyl ester as a yellow oil. The oil was found to be suitable for use in the cyclization reaction producing the lactone of Example 5. Analytically pure samples could be prepared by subjecting the oil to radial chromatography, eluting with CH2Cl2.

reactant | methyl (R)-3-hydroxytetradecanoate | 20.0 mmol, 5.18 g | O[C@@H](CC(=O)OC)CCCCCCCCCCC | C15H30O3
reactant | 2-bromooctanoyl chloride | 20.8 mmol, 5.03 g | BrC(C(=O)Cl)CCCCCC | C8H14BrClO
reactant | pyridine | 20.6 mmol, 1.67 mL | N1=CC=CC=C1 | C5H5N
reactant | H2O | 100 mL | O | H2O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-[(2-bromo-1-oxooctyl)oxy]tetradecanoic acid methyl ester | 8.10 g, 87% | COC(C[C@@H](CCCCCCCCCCC)OC(C(CCCCCC)Br)=O)=O | C23H43BrO4
